*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/2.20e-04[uF]/50[V]
* Murata P/N :GRM15XB11H221KA86
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XB11H221KA86 Port1 Port2
C01 Port1 N01 2.25e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 2.66e-10
R03 N02 N03 5.87e-01
C04 N03 N04 1.97e-08
R04 N03 N04 1.72e+05
C05 N04 N05 3.91e-08
R05 N04 N05 1.72e+04
C06 N05 N06 3.70e-08
R06 N05 N06 1.68e+03
C07 N06 N07 3.18e-08
R07 N06 N07 2.06e+02
C08 N07 N08 3.49e-08
R08 N07 N08 1.88e+01
C09 N08 N09 8.44e-08
R09 N08 N09 9.43e+00
C10 N09 N10 2.97e-08
R10 N09 N10 4.56e+00
C11 N10 N11 7.24e-09
R11 N10 N11 2.41e+00
C12 N11 N12 2.36e-09
R12 N11 N12 9.42e-01
C13 N12 N13 1.22e-09
R13 N12 N13 4.10e-01
C14 N13 N14 2.88e-11
L14 N13 N14 5.63e-11
R14 N13 N14 9.98e-01
C15 N14 Port2 8.50e-12
L15 N14 Port2 4.00e-11
R15 N14 Port2 4.59e+00
.ENDS GRM15XB11H221KA86
